US07326710B2
(IV-9) N1-phenacyl-N4-(4-methoxyphenacyl)piperazine dihydrochloride
A mixture of 2-chloro-1-(4-methoxyphenyl)ethanone (3 mmol), N-phenacyl piperazine dihydrochloride (3 mmol) and K2CO3 (10 mmol) in 30 ml of DMF was treated according to the general preparation 2 to give compound (IV-9), 0.68 g (62%), mp 226-228° C., M+ 352.

reactant | 2-chloro-1-(4-methoxyphenyl)ethanone | 3 mmol | ClCC(=O)C1=CC=C(C=C1)OC | C9H9ClO2
reactant | N-phenacyl piperazine dihydrochloride | 3 mmol | Cl.Cl.C(C(=O)C1=CC=CC=C1)N1CCNCC1
reactant | K2CO3 | 10 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | N1-phenacyl-N4-(4-methoxyphenacyl)piperazine dihydrochloride | Cl.Cl.C(C(=O)C1=CC=CC=C1)N1CCN(CC1)CC(=O)C1=CC=C(C=C1)OC | InChI=1S/C21H24N2O3.2ClH/c1-26-19-9-7-18(8-10-19)21(25)16-23-13-11-22(12-14-23)15-20(24)17-5-3-2-4-6-17;;/h2-10H,11-16H2,1H3;2*1H
